US09260441B2
Step B: N,N-Dimethyl-6-[4-[(E)-4,4,4-trifluorobut-2-enoyl]piperazin-1-yl]pyridine-3-carboxamide
(E)-4,4,4-Trifluorobut-2-enoic acid (32 mg, 0.23 mmol) was dissolved in dichloromethane (1 ml), oxalyl chloride (20 μl, 0.23 mol) and one drop of DMF were added and the resulting solution was stirred at room temperature for 10 minutes. This solution was added to a solution of N,N-dimethyl-6-piperazin-1-yl-pyridine-3-carboxamide (35 mg, 0.15 mmol) and DIPEA (80 μl, 0.5 mmol) in anhydrous DCM (2 ml) and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure and the resulting residue was purified by preparative HPLC (Waters XBridge, gradient of water containing 0.1% NH3 and acetonitrile) to yield 39 mg of a solid (0.11 mmol, yield 48%).

reactant | (E)-4,4,4-Trifluorobut-2-enoic acid | 0.23 mmol, 32 mg | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | oxalyl chloride | 0.23 mol, 20 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethyl-6-piperazin-1-yl-pyridine-3-carboxamide | 0.15 mmol, 35 mg | CN(C(=O)C=1C=NC(=CC1)N1CCNCC1)C | C12H18N4O
reactant | DIPEA | 0.5 mmol, 80 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl-6-[4-[(E)-4,4,4-trifluorobut-2-enoyl]piperazin-1-yl]pyridine-3-carboxamide | 0.11 mmol, 39 mg, yield 48% | CN(C(=O)C=1C=NC(=CC1)N1CCN(CC1)C(\C=C\C(F)(F)F)=O)C | C16H19F3N4O2
